US07547717B2
To a solution 1-(4-chloro-phenyl)-5-(4-fluoro-phenyl)-1H-imidazole-2-thiol (1 eq) in DMF is added a 1M solution of lithium bis(trimethylsilyl)amide in THF (1 eq) and ethyl 3-bromopropionate (1 eq) at room temperature. The mixture is heated at 60° C. for 2 hours and cooled to room temperature. The mixture is quenched with water and extracted with ethyl acetate. The organics were dried and concentrated under vacuum. The residue is purified by chromatography on silica to give 3-(1-(4-chlorophenyl)-5-(4-fluorophenyl)-1,2-dihydro-2-thioxoimidazol-3-yl)propionic acid ethyl ester.

reactant | 1-(4-chloro-phenyl)-5-(4-fluoro-phenyl)-1H-imidazole-2-thiol | 1 eq | ClC1=CC=C(C=C1)N1C(=NC=C1C1=CC=C(C=C1)F)S | C15H10ClFN2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 1 eq | C1CCOC1 | C4H8O
reactant | ethyl 3-bromopropionate | 1 eq | BrCCC(=O)OCC | C5H9BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(1-(4-chlorophenyl)-5-(4-fluorophenyl)-1,2-dihydro-2-thioxoimidazol-3-yl)propionic acid ethyl ester | C(C)OC(CCN1C(N(C(=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)Cl)=S)=O | C20H18ClFN2O2S
